US09376442B2
4-[2-(Cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-N-[(1R*,2R*,4R*)-2-fluoro-4-(propanoylamino)cyclopentyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-[(1R*,2R*,4R*)-4-amino-2-fluorocyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide (example D.f71) and commercially available propionyl chloride the title compound is obtained as colorless solid.

reactant | N-[(1R*,2R*,4R*)-4-amino-2-fluorocyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | N[C@H]1C[C@H]([C@@H](C1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)F)OCC2CC2)C)F | C24H26F3N5O2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[2-(Cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-N-[(1R*,2R*,4R*)-2-fluoro-4-(propanoylamino)cyclopentyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)C(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2[C@@H](C[C@@H](C2)NC(CC)=O)F | C27H30F3N5O3
